US04963288
To 30 ml of hydrogen fluoride pyridine solution which was cooled with ice, 8.5 g of (R)-1,2-epoxyoctane in 20 ml of ether was added dropwise. The mixture was stirred for one hour at the same temperature and brought to room temperature. 100 ml of water was added to the mixture. After extracting it with 50 ml of ether twice, the obtained organic layer was washed with an alkali solution and then with water, dried over magnesium sulfate and concentrated. The concentrate was distilled under reduced pressure and 4.9 g of distillate was obtained at 126°-129° C./80 mmHg. 3.7 g of (S)-2-fluorooctane-1-ol was obtained by recrystallization from 40 ml of heptane. Its melting point was 33°-35° C., [α]D26 -13.14 (c1.7, benzene) of optical rotation was shown.

reactant | hydrogen fluoride pyridine | 30 ml | N1=CC=CC=C1.F
reactant | (R)-1,2-epoxyoctane | 8.5 g | O1C[C@H]1CCCCCC | C8H16O
reactant | water | 100 ml | O | H2O
reactant | heptane | 40 ml | CCCCCCC | C7H16
solvent | ether | 20 ml | CCOCC | C4H10O
product | (S)-2-fluorooctane-1-ol | 3.7 g | F[C@H](CO)CCCCCC | C8H17FO
